US04772614
In a similar manner to that described in Example 12(a), N-methylmethanesulphonamide was reacted with n-butyl lithium and the product was reacted with ethyl 2-amino-5-methoxybenzoate to give the novel compound 1-(2-amino-5-methoxyphenyl)-2-(N-methylsulphamoyl)ethanone, m.p. 117°-118°.

reactant | N-methylmethanesulphonamide | CNS(=O)(=O)C | C2H7NO2S
reactant | n-butyl lithium | C(CCC)[Li]
reactant | ethyl 2-amino-5-methoxybenzoate | NC1=C(C(=O)OCC)C=C(C=C1)OC | C10H13NO3
product | 1-(2-amino-5-methoxyphenyl)-2-(N-methylsulphamoyl)ethanone | NC1=C(C=C(C=C1)OC)C(CS(NC)(=O)=O)=O | C10H14N2O4S
